US08492378B2
4-(methylthio)-3-(trifluoromethyl)benzyl chloride
To a solution of 4-(methylthio)-3-(trifluoromethyl)benzyl alcohol (3.00 g, 13.5 mmol) in toluene (15 mL) was added thionyl chloride (1.18 mL, 16.2 mmol) at room temperature, and the resulting mixture was stirred for 1 hr. The reaction mixture was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=10/1), and crystallized from hexane to give the title compound (2.54 g, yield 78%) as colorless crystals.

reactant | 4-(methylthio)-3-(trifluoromethyl)benzyl alcohol | 13.5 mmol, 3.00 g | CSC1=C(C=C(CO)C=C1)C(F)(F)F | C9H9F3OS
reactant | thionyl chloride | 16.2 mmol, 1.18 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(methylthio)-3-(trifluoromethyl)benzyl chloride | 2.54 g, yield 78% | CSC1=C(C=C(CCl)C=C1)C(F)(F)F | C9H8ClF3S
